US08530413B2
Analogously to example 6, 3H-benzothiazol-2-one, iodomethyl pivalate and methyl 3-(4-hydroxyphenyl)hex-4-ynoate were used to obtain 3-[4-(2-oxobenzothiazol-3-ylmethoxy)-phenyl]hex-4-ynoic acid.

reactant | 3H-benzothiazol-2-one | S1C(NC2=C1C=CC=C2)=O | C7H5NOS
reactant | iodomethyl pivalate | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | methyl 3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C13H14O3
product | 3-[4-(2-oxobenzothiazol-3-ylmethoxy)-phenyl]hex-4-ynoic acid | O=C1SC2=C(N1COC1=CC=C(C=C1)C(CC(=O)O)C#CC)C=CC=C2 | C20H17NO4S
